US05132310
rac-3,4-Dihydro-2,5,7,8-tetramethyl-2-{[5-(2-pyridinyl)-2-thienyl]ethynyl}-2H-1-benzopyran-6-ol.
A mixture of 2.3 g of rac-3,4-dihydro-2-ethynyl2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol, 3.6 g (15 mmol) of 2-(5-bromo-2-thienyl)pyridine, 0.39 g of triphenylphosphine, 95 mg of cuprous iodide, 3 ml of triethylamine and 100 ml of acetnitrile was degassed with argon for 10 minutes. Palladium acetate, 110 mg, was then added and the mixture was stirred at room temperature for 18 hrs. After evaporation under reduced pressure, the residue was partitioned between methylene chloride and water. The organic layer was dried and evaporated and the residue was chromatographed over 140 g of silica gel using 5% of ethyl acetate in methylene chloride. The combined clean fractions were evaporated and the residue was crystallized from ether/hexane to yield 2 g of colorless crystals with m.p. 159°-162°. The analytical sample was recrystallized from ethanol and had m.p. 160°-162°.

reactant | rac-3,4-dihydro-2-ethynyl2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 2.3 g | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 2-(5-bromo-2-thienyl)pyridine | 15 mmol, 3.6 g | BrC1=CC=C(S1)C1=NC=CC=C1 | C9H6BrNS
reactant | triphenylphosphine | 0.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | acetnitrile | 100 ml | C(C)#N | C2H3N
product | rac-3,4-Dihydro-2,5,7,8-tetramethyl-2-{[5-(2-pyridinyl)-2-thienyl]ethynyl}-2H-1-benzopyran-6-ol | 2 g | CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C#CC=2SC(=CC2)C2=NC=CC=C2 | C24H23NO2S
